2142-12-16 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT Chest done yesterday showed resolving PNA.
   Patient weaned to PS yesterday and tolerated well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-15**] 10:33 PM
   Metronidazole - [**2142-12-16**] 02:34 AM
   Piperacillin - [**2142-12-16**] 04:34 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-12-15**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2142-12-16**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-16**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 91 (82 - 103) bpm
   BP: 104/60(69) {96/51(65) - 153/108(116)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 7 (3 - 17)mmHg
   Total In:
                                                                  2,935 mL
                                                                    696 mL
   PO:
   TF:
                                                                     77 mL
                                                                     78 mL
   IVF:
                                                                  1,328 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    355 mL
   Urine:
                                                                    875 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,060 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 206 (206 - 627) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   348 K/uL
   10.7 g/dL
   113 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   31.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
   WBC
   12.0
   8.9
   Hct
   32.8
   36.7
   31.3
   Plt
   394
   348
   Cr
   0.7
   0.7
   Glucose
   125
   113
   Other labs: PT / PTT / INR:60.4/46.7/6.9, ALT / AST:59/31, Alk Phos / T
   Bili:50/1.0, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with history of atrial fibrillation, CAD, HTN, CHF,
   morbid obesity, recent pontine and cerebellar infarcts requiring
   prolonged ICU hospitalization from [**Date range (1) 11669**] complicated by
   persistent fevers and leukocytosis, discharged [**12-13**] after trach and
   peg placement and on a course of linezolid for VRE isolated from
   peripheral line on [**12-9**], now found to have recurrent fevers.
   #  Fever: Found to have T of 105 today at rehab.  Source is most likely
   severe L sided pneumonia seen on CXR.  Given recent discharge would
   treat for Hospital acquired pneumonia. It is reassuring that patient
   has blood cultures from [**12-8**], [**12-9**], [**12-14**] that are no growth to date.
   Urine and Urine culture was sent in ED. C diff sent from ED has
   returned negative, however having persistent diarrhea. Other sources
   include Subclavian line. Unclear where and when that was placed. Of
   note, patient had VRE growing from peripheral line on [**12-9**]. Initially
   prescribed 1 week course, but would favor treating for 2-3 weeks until
   surveillance blood cultures are negative.
   -remove subclavian -consider PICC line placement if for longterm abx
   -surveillance blood cultures
   -repeat C diff
   -treat for HAP with Linezolid and Meropenem
   -continue Flagyl for empiric C diff coverage given diarrhea
   .
   # Multiple recent pontine and cerebellar infarcts: Patient is currently
   at baseline neuro exam and mental status. Neurology was consulted in
   the ED.
   -f/u neurology recs
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -Outpatient Coumadin dose 7.5mg po daily. Given INR currently 3.0,
   would give 5mg po daily.
   -monitor INR daily
   -monitor on tele
   .
   # Respiratory failure: Patient trached.
   -continue mouth care
   -will have RT resume prior vent settings: PEEP 5, FiO2 35%
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place
   # PPX: Famotidine, heparin SQ, bowel regimen
   # ACCESS: R Subclavian, PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Will call in the AM.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-15**] 04:18 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-12-15**] 05:52 AM
   20 Gauge - [**2142-12-15**] 05:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-16 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50-year-old male w/ CAD/CHF, afib on coumadin, recent
   pontine/cerebellar infarct and hospitalization complicated by possible
   VRE line infection (persistent fevers and [**12-5**] cath tip cx positive).
   Re-admitted after less than 24h discharged with fevers to 105.
   24 Hour Events:
   Low-grad
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-15**] 10:33 PM
   Metronidazole - [**2142-12-16**] 02:34 AM
   Piperacillin - [**2142-12-16**] 04:34 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-12-16**] 12:27 AM
   Famotidine (Pepcid) - [**2142-12-16**] 08:00 AM
   Other medications:
   NPH, coumadin, simvastatin, MVI, metoprolol, nystatin S&S
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-16**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 97 (82 - 99) bpm
   BP: 98/52(64) {80/43(52) - 153/108(116)} mmHg
   RR: 18 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 8 (3 - 17)mmHg
   Total In:
                                                                  2,935 mL
                                                                    865 mL
   PO:
   TF:
                                                                     77 mL
                                                                    106 mL
   IVF:
                                                                  1,328 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    355 mL
   Urine:
                                                                    875 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,060 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 559 (206 - 627) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach with trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   348 K/uL
   113 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   139 mEq/L
   31.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
   WBC
   12.0
   8.9
   Hct
   32.8
   36.7
   31.3
   Plt
   394
   348
   Cr
   0.7
   0.7
   Glucose
   125
   113
   Other labs: PT / PTT / INR:60.4/46.7/6.9, ALT / AST:59/31, Alk Phos / T
   Bili:50/1.0, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Imaging: CT Chest- resolving lower lobe (L>R) infiltrate compared to
   late [**11-2**] CT chest
   CXR- LLL infiltrate stable
   Microbiology: all neg or pending; C diff neg
   Assessment and Plan
   50-year-old male w/ CAD/CHF, afib on coumadin, recent
   pontine/cerebellar infarct and hospitalization complicated by possible
   VRE line infection (persistent fevers and [**12-5**] cath tip cx positive).
   Re-admitted after less than 24h discharged with fevers to 105. Still
   with no localizing sx and low-grade temps since.
   Fever- DDx still broad as no localizing signs or symptoms. Pulm source
   possible given exam and CXR but no symptoms. Bloodstream source
   possible w/ indwelling CVC. C diff possible given longstanding ABX
   therapy.
   -now w/ low grades similar to just prior to last discharge
   -GU workup pending
   -repeat C diff neg, will stop metronidazole and monitor
   -cont linezolid, plan to complete an empiric 14d course (last day
   [**12-23**]) from initiation of linezolid for peripheral cath tip cx
   -cont pip-tazo another 24h to cover poss pulm GNRs, f/u repeat sputum
   cx
   Chronic resp failure- vent dependent throughout last hospitalization
   but oxygenating well and tolerating PSV. Noted to have intermitt
   central apnea even while awake
   -MMV [**5-29**] given apneas
   -pulm toilet
   Prior CVA- on anticoag, statin
   AFib -cont BB, hold coumadin for suprather INR
   DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-15**] 04:18 PM 10 mL/hour
   Comments: tube feeds via PEG
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2142-12-15**] 05:52 AM
   20 Gauge - [**2142-12-15**] 05:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Fevers improving on broad spectrum antibiotics, stable on vent.
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 97 (82 - 99) bpm
   BP: 98/52(64) {80/43(52) - 153/108(116)} mmHg
   RR: 18 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 8 (3 - 17)mmHg
   Total In:
                                                                  2,935 mL
                                                                    865 mL
   PO:
   TF:
                                                                     77 mL
                                                                    106 mL
   IVF:
                                                                  1,328 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    355 mL
   Urine:
                                                                    875 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,060 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 559 (206 - 627) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach with trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands,
   Today
s labs and imaging reviewed and recorded above
   Problems: fever, respiratory failure, CVA, DN, A-fib
   Agree with plan to continue empiric antibiotics, continue vent support,
   rate control and continue anticoagulation
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2142-12-16**] 15:47 ------

2142-12-17 07:52:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
 FEVER - 102.3
F - [**2142-12-16**] 07:00 PM -cultured from ports
   Echo ordered
   Flagyl was d/c-ed
   Coumadin d/c-ed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2142-12-16**] 10:01 AM
   Linezolid - [**2142-12-16**] 10:00 PM
   Piperacillin - [**2142-12-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-12-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2142-12-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-17**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (100.9
   HR: 93 (89 - 105) bpm
   BP: 116/79(89) {79/28(42) - 135/96(103)} mmHg
   RR: 14 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 7 (-3 - 13)mmHg
   Total In:
                                                                  4,040 mL
                                                                    944 mL
   PO:
   TF:
                                                                    615 mL
                                                                    428 mL
   IVF:
                                                                  3,215 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    310 mL
   Urine:
                                                                  1,215 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,825 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 620 (478 - 706) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   347 K/uL
   10.6 g/dL
   95 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   105 mEq/L
   142 mEq/L
   32.5 %
   9.2 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
   WBC
   12.0
   8.9
   9.2
   Hct
   32.8
   36.7
   31.3
   32.5
   Plt
   394
   348
   347
   Cr
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   Other labs: PT / PTT / INR:49.6/51.0/5.4, ALT / AST:34/21, Alk Phos / T
   Bili:42/0.9, LDH:200 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Microbiology: [**12-16**] Blood cultures x3 pending
   [**12-15**] C diff negative x2
   [**12-15**] Urine culture negatve
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with history of atrial fibrillation, CAD, HTN, CHF,
   morbid obesity, recent pontine and cerebellar infarcts requiring
   prolonged ICU hospitalization from [**Date range (1) 11669**] complicated by
   persistent fevers and leukocytosis, discharged [**12-13**] after trach and
   peg placement and on a course of linezolid for VRE isolated from
   peripheral line on [**12-9**], now found to have recurrent fevers.
   #  Fever: Patient Found to have T of [**Age over 90 **] yesterday at rehab.  According
   to the most recent d/c notes patient had persistent fevers throughout
   his admission.  C.diff sent yesterday was negative, UA negative.  CXR
   similar to previous from prior admission.  CT Chest shows no worsening
   of prior PNA.  CT ABD/Pelvis with no signs of intraabdominal source of
   infection.  Plan at this point is to cont Linezolid for treatment of
   VRE drawn from PIV on [**12-9**].  will cont Zosyn for empiric coverage of
   ?HAP PNA
   - f/u surveillance blood cultures
   -TTE today for evaluation of continued fevers given recent +Blood Cx
   with VRE
   -treat for HAP with Linezolid and Zosyn
   -d/c flagyl as c.diff negative x 2
   - consider re-siting CVL if continues to [**Last Name (LF) **], [**First Name3 (LF) **] f/u blood Cx drawn
   from CVL
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -hold coumadin as INR supratherapeutic.
   -monitor INR daily
   -monitor on tele
   # Multiple recent pontine and cerebellar infarcts: Patient is currently
   at baseline neuro exam and mental status.
   # Respiratory failure: Patient trached, weaned to PS yesterday
   - cont PS, does not tolerate SBT [**2-26**] apnea
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place
   # PPX: Famotidine, heparin SQ, bowel regimen
   # ACCESS: R Subclavian, PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Will call in the AM.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-17**] 04:02 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-12-15**] 05:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-17 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   team for key portions of the services provided.  I agree with his / her
   note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 102.3
   - C. diff negative - Flagyl d/c'ed
   - Coumadin held for supratherapeutic INR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-16**] 10:00 PM
   Piperacillin - [**2142-12-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-12-17**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-17**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (100.9
   HR: 90 (89 - 105) bpm
   BP: 131/73(86) {79/28(42) - 135/96(103)} mmHg
   RR: 17 (11 - 34) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 4 (-3 - 13)mmHg
   Total In:
                                                                  4,040 mL
                                                                  1,056 mL
   PO:
   TF:
                                                                    615 mL
                                                                    508 mL
   IVF:
                                                                  3,215 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    455 mL
   Urine:
                                                                  1,215 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,825 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 499 (478 - 706) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: 2+ pulses intact in radial, DP, PT regions B.
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   347 K/uL
   95 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   105 mEq/L
   142 mEq/L
   32.5 %
   9.2 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
   WBC
   12.0
   8.9
   9.2
   Hct
   32.8
   36.7
   31.3
   32.5
   Plt
   394
   348
   347
   Cr
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   Other labs: PT / PTT / INR:49.6/51.0/5.4, ALT / AST:34/21, Alk Phos / T
   Bili:42/0.9, LDH:200 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR - LLL infiltrate vs atelectasis.
   Microbiology: C. diff negative; Urine negative; All others pending.
   Assessment and Plan
   50-year-old male w/ CAD/CHF, afib on coumadin, recent
   pontine/cerebellar infarct and hospitalization complicated by possible
   VRE line infection (persistent fevers and [**12-5**] cath tip cx positive).
   Re-admitted after less than 24h discharged with fevers to 105. Still
   with no localizing sx and low-grade temps since.
   # Fever- DDx still broad as no localizing signs or symptoms. Pulm
   source possible given exam and CXR but no symptoms. Bloodstream source
   possible w/ indwelling CVC. C diff negative.
   - Cont linezolid, plan to complete an empiric 14d course (last day
   [**12-23**]) from initiation of linezolid for peripheral cath tip cx
   - Cont pip-tazo - Day [**3-6**] - to cover poss pulm GNRs, f/u repeat sputum
   cx
   - F/U Cultures
   - D/c CL and place PIV if possible; if unable to place PIV will need
   FFP and new CVL given concern for CRBSI
   # Chronic resp failure- vent dependent throughout last hospitalization
   but oxygenating well and tolerating PSV. Noted to have intermitt
   central apnea even while awake
   - MMV [**5-29**] given apneas; would like to try TM trial if apneas resolve,
   though these may be central in origin and therefore likely permanent.
   - Pulm toilet
   - Consider bronch if persistently febrile.
   # Prior CVA- on anticoag (coumadin on hold for elevated INR on abx),
   statin
   # AFib -cont BB, hold coumadin for suprather INR
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   - Qid fingersticks, goal <150
   # PEG tube erythema:
   - Request IR to come by and make recommendations
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-12-15**] 05:52 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-12-18 05:48:00 Physician Resident Progress Note
Chief Complaint: Fevers
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2142-12-17**] 11:36 AM
   Echo:  poor technical quality due to patient's body habitus. Left
   ventricular function is mildly hypokinetic. The right ventricle is not
   well seen. No pathologic valvular abnormality seen. No vegetation or
   abscess seen (cannot exclude). Pulmonary artery systolic pressure could
   not be determined.
 MULTI LUMEN - STOP [**2142-12-17**] 02:31 PM
 FEVER - 101.9
F - [**2142-12-18**] 12:00 AM -pancultured
   PIV placed
   Subclavian d/c-ed -tip sent for culture
   Called  IR to look at PEG site
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2142-12-16**] 10:01 AM
   Piperacillin - [**2142-12-17**] 04:00 AM
   Linezolid - [**2142-12-17**] 10:44 PM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-18**] 05:18 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-12-17**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-18**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.6
C (101.5
   HR: 96 (89 - 106) bpm
   BP: 89/69(73) {89/48(59) - 165/106(115)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 4 (4 - 7)mmHg
   Total In:
                                                                  2,338 mL
                                                                    505 mL
   PO:
   TF:
                                                                  1,406 mL
                                                                    347 mL
   IVF:
                                                                    752 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    355 mL
   Urine:
                                                                  1,390 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    548 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 360 (187 - 561) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   302 K/uL
   11.3 g/dL
   116 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   17 mg/dL
   104 mEq/L
   139 mEq/L
   33.5 %
   7.9 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   Plt
   394
   348
   347
   302
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   Other labs: PT / PTT / INR:26.5/40.4/2.6, ALT / AST:34/21, Alk Phos / T
   Bili:42/0.9, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with history of atrial fibrillation, CAD, HTN, CHF,
   morbid obesity, recent pontine and cerebellar infarcts requiring
   prolonged ICU hospitalization from [**Date range (1) 11669**] complicated by
   persistent fevers and leukocytosis, discharged [**12-13**] after trach and
   peg placement and on a course of linezolid for VRE isolated from
   peripheral line on [**12-9**], now found to have recurrent fevers.
   #  Fever: Patient Found to have Tm of 101.9 overnight. Blood cultures
   obtained from subclavian. C diff x2 negative. UA, Ucx negative.  CT
   Chest shows no worsening of prior PNA.  CT ABD/Pelvis with no signs of
   intraabdominal source of infection.  Plan at this point is to cont
   Linezolid for treatment of VRE drawn from PIV on [**12-9**].  will cont
   Zosyn for empiric coverage of ?HAP PNA.
   - f/u surveillance blood cultures
   -TTE for evaluation of continued fevers given recent +Blood Cx with
   VRE; extremely poor study, will have to consider TEE
   -treat for HAP with Linezolid and Zosyn day 4 of 10
   - will have wound nurse [**First Name (Titles) **] [**Last Name (Titles) **] evaluate PEG tube site
   - Bronch and consider tapping L effusion
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -resume coumadin.
   -monitor INR daily
   -monitor on tele
   # Multiple recent pontine and cerebellar infarcts: Patient is currently
   at baseline neuro exam and mental status.
   - d/w neuro re: CNS fevers, although this would typically be
   hypothalamic
   # Respiratory failure: Patient trached, weaned to PS 5/5
   - cont PS, does not tolerate SBT [**2-26**] apnea, continue daily SBT
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place
   # PPX: Famotidine, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-18**] 04:57 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT: INR>2
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-18 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TTE - suboptimal study; cannot exclude vegitation
   - CL d/c'ed, PIVs placed
   - Tm 101.9 at MN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2142-12-16**] 10:01 AM
   Piperacillin - [**2142-12-17**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-18**] 05:18 AM
   Linezolid - [**2142-12-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-12-18**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-18**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 96 (89 - 106) bpm
   BP: 115/56(72) {89/48(59) - 165/106(115)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,338 mL
                                                                  1,052 mL
   PO:
             TF:
                                                                  1,406 mL
                                                                    687 mL
   IVF:
                                                                    752 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    660 mL
   Urine:
                                                                  1,390 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    548 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 691 (187 - 691) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   302 K/uL
   127
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   17 mg/dL
   104 mEq/L
   139 mEq/L
   33.5 %
   7.9 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   Plt
   394
   348
   347
   302
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   Other labs: PT / PTT / INR:26.5/40.4/2.6, ALT / AST:34/21, Alk Phos / T
   Bili:42/0.9, LDH:200 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Microbiology: No new micro. All negative to date.
   CXR: Persistent LLL opacities/effusion.
   Assessment and Plan
   50-year-old male w/ CAD/CHF, afib on coumadin, recent
   pontine/cerebellar infarct and hospitalization complicated by possible
   VRE line infection (persistent fevers and [**12-5**] cath tip cx positive).
   Re-admitted after less than 24h discharged with fevers to 105. Still
   with no localizing sx and low-grade temps since.
   # Fever: DDx still broad as no localizing signs or symptoms. Pulm
   source possible given exam and CXR but no symptoms. Bloodstream source
   possible w/ indwelling CVL. C diff negative.
   - Cont linezolid, Day [**5-4**]
 for h/o VRE+ catheter tip
   - Cont pip-tazo - Day [**5-4**] - to cover poss pulm GNRs
   - F/U Cultures
   - Plan for bronch today to assess LLL
   - [**Month (only) 51**] need [**Female First Name (un) 217**] if bronch unremarkable
   - D/w neuro if could be neurologic fevers
   - [**Month (only) 51**] need TEE if above all negative
   # Chronic resp failure: vent dependent throughout last hospitalization
   but oxygenating well and tolerating PSV. Noted to have intermitent
   central apnea even while awake
   - MMV [**5-29**] given apneas; daily SBT to evaluate for apneas - would like
   to try TM trial if apneas resolve, though these may be central in
   origin and therefore likely permanent.
   - Pulm toilet
   - Bronch +/- [**Female First Name (un) 217**] as above
   # Prior CVA: on anticoag (coumadin on hold for elevated INR on abx),
   statin
   # Afib: cont BB, resume coumadin
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   - Qid fingersticks, goal <150
   # PEG tube erythema:
   - Awaiting IR recommendations
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-18**] 08:30 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-12-19 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2142-12-18**] 04:30 PM
 FEVER - 102.3
F - [**2142-12-18**] 12:00 PM
   Continued with fevers overnight.  Neurology [**Last Name (LF) 11764**], [**First Name3 (LF) **] not think his
   strokes are the cause for his fevers.
   Bronchosopy done and BAL sent for Gram stain and culture.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2142-12-16**] 10:01 AM
   Piperacillin - [**2142-12-17**] 04:00 AM
   Linezolid - [**2142-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-18**] 08:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-12-18**] 08:20 AM
   Midazolam (Versed) - [**2142-12-18**] 04:30 PM
   Fentanyl - [**2142-12-18**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-19**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.2
   HR: 91 (88 - 102) bpm
   BP: 127/80(92) {94/46(57) - 131/85(93)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,190 mL
                                                                    502 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    327 mL
   IVF:
                                                                    540 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    535 mL
   Urine:
                                                                  1,440 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 419 (363 - 691) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   11.0 g/dL
   99 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   16 mg/dL
   103 mEq/L
   137 mEq/L
   32.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   Plt
   394
   348
   347
   302
   269
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   99
   Other labs: PT / PTT / INR:19.5/35.9/1.8, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:67.9 %, Lymph:23.2 %, Mono:6.2 %,
   Eos:2.4 %, LDH:174 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with history of atrial fibrillation, CAD, HTN, CHF,
   morbid obesity, recent pontine and cerebellar infarcts requiring
   prolonged ICU hospitalization from [**Date range (1) 11669**] complicated by
   persistent fevers and leukocytosis, discharged [**12-13**] after trach and
   peg placement and on a course of linezolid for VRE isolated from
   peripheral line on [**12-9**], now found to have recurrent fevers.
   #  Fever: Patient Found to have Tm of 101.9 overnight. Blood cultures
   obtained from subclavian. C diff x2 negative. UA, Ucx negative.  CT
   Chest shows no worsening of prior PNA.  CT ABD/Pelvis with no signs of
   intraabdominal source of infection.  Plan at this point is to cont
   Linezolid for treatment of VRE drawn from PIV on [**12-9**].  will cont
   Zosyn for empiric coverage of ?HAP PNA.
   - f/u surveillance blood cultures
   -TTE for evaluation of continued fevers given recent +Blood Cx with
   VRE; extremely poor study, will have to consider TEE
   -treat for HAP with Linezolid and Zosyn day 4 of 10
   - will have wound nurse [**First Name (Titles) **] [**Last Name (Titles) **] evaluate PEG tube site
   - Bronch and consider tapping L effusion
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -resume coumadin.
   -monitor INR daily
   -monitor on tele
   # Multiple recent pontine and cerebellar infarcts: Patient is currently
   at baseline neuro exam and mental status.
   - d/w neuro re: CNS fevers, although this would typically be
   hypothalamic
   # Respiratory failure: Patient trached, weaned to PS 5/5
   - cont PS, does not tolerate SBT [**2-26**] apnea, continue daily SBT
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place
   # PPX: Famotidine, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-19**] 02:04 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-19 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 102.3
   - Bronch unremarkable
   - Neuro curbside - fevers not consistent with neurologic fevers [**2-26**]
   strokes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2142-12-16**] 10:01 AM
   Piperacillin - [**2142-12-17**] 04:00 AM
   Linezolid - [**2142-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2142-12-18**] 04:30 PM
   Fentanyl - [**2142-12-18**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-19**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.9
C (102.1
   HR: 99 (88 - 102) bpm
   BP: 127/92(99) {94/46(57) - 132/96(99)} mmHg
   RR: 21 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,190 mL
                                                                  1,012 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    593 mL
   IVF:
                                                                    540 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    835 mL
   Urine:
                                                                  1,440 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 481 (363 - 499) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   269 K/uL
   99 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   16 mg/dL
   103 mEq/L
   137 mEq/L
   32.5 %
   8.5 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   Plt
   394
   348
   347
   302
   269
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   99
   Other labs: PT / PTT / INR:19.5/35.9/1.8, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:67.9 %, Lymph:23.2 %, Mono:6.2 %,
   Eos:2.4 %, LDH:174 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR - L effusion.
   Microbiology: BAL GS negative; no other new culture data
   Assessment and Plan
   50-year-old male w/ CAD/CHF, afib on coumadin, recent
   pontine/cerebellar infarct and hospitalization complicated by possible
   VRE line infection (persistent fevers and [**12-5**] cath tip cx positive).
   Re-admitted after less than 24h discharged with fevers to 105. Still
   with no localizing sx.
   # Fever: DDx still broad as no localizing signs or symptoms.
   - Linezolid
 end date [**12-23**] (for original VRE+ line tip
 no extension
   as no evidence of new acute infection)
   - D/C zosyn as unlikely to have HAP
   - F/U Cultures
   - [**Female First Name (un) **] today
   - TEE to r/o endocarditis (would change length of linezolid course)
   - Consider ID consult if all above negative
   - If w/u negative, will d/c abx and follow fever curve / eosinophilia,
   ?drug reaction or central fever
   # Chronic resp failure: vent dependent throughout last hospitalization
   but oxygenating well and tolerating PSV. Noted to have intermitent
   central apnea even while awake
   - MMV [**5-29**] given apneas; daily SBT to evaluate for apneas - would like
   to try TM trial if apneas resolve, though these may be central in
   origin and therefore likely permanent.
   - Pulm toilet
   # Prior CVA: on anticoag (coumadin on hold for elevated INR on abx),
   statin
   # Afib: cont BB, resume coumadin
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   - Qid fingersticks, goal <150
   # PEG tube erythema:
   - Awaiting IR recommendations
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-19**] 07:02 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2142-12-20 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2142-12-20**] 05:00 AM
   IP evaluated pleural effusion: insufficient fluid to tap
   Restarted Coumadin at INR 2
   TEE on friday
   held off on ID consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2142-12-19**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.5
C (103.1
   HR: 104 (86 - 107) bpm
   BP: 111/82(90) {93/60(66) - 138/93(109)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
                  Total In:
                                                                  1,689 mL
                                                                    661 mL
   PO:
                  TF:
                                                                  1,158 mL
                                                                    541 mL
   IVF:
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    520 mL
   Urine:
                                                                  1,145 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 544 (423 - 600) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 7.3 L/min
   Physical Examination
   GEN: NAD, +trach in place, following commands, answers questions with
   yes/no nodding of head
   CVS: +S1/S2, no M/R./G, RRR
   LUNGS: +expiratory ronchi, no wheezes or crackles
   ABD: +BS, soft, NT/ND
   EXT: no C/C/E, + 2 pulses
   Labs / Radiology
   282 K/uL
   12.6 g/dL
   115 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   17 mg/dL
   100 mEq/L
   136 mEq/L
   37.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   9.6
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   Plt
   394
   348
   347
   [**Telephone/Fax (3) 11778**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   99
   115
   Other labs: PT / PTT / INR:21.7/36.8/2.0, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:67.9 %, Lymph:23.2 %, Mono:6.2 %,
   Eos:2.4 %, LDH:174 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with history of atrial fibrillation, CAD, HTN, CHF,
   morbid obesity, recent pontine and cerebellar infarcts requiring
   prolonged ICU hospitalization from [**Date range (1) 11669**] complicated by
   persistent fevers and leukocytosis, discharged [**12-13**] after trach and
   peg placement and on a course of linezolid for VRE isolated from
   peripheral line on [**12-9**], now found to have recurrent fevers.
   #  Fever: patient continues to be febrile with no known cause.  Patient
   has recent pontine and cerebellar infarcts that could cause CNS fevers,
   although this would typically be hypothalamic.  CVL has been removed,
   TTE negative for vegetations.  No growth to date in any cultures.
   Zosyn stopped [**12-19**].  IP was unable to tap effusion.
   - continue linezolid for 14 day course for VRE bacteremia to [**12-23**]
   - TEE to evaluate for vegetation on vegitation, consent is in chart; if
   positive would change course of abx and lengthen to [**7-2**] wks
   - NPO p MN tonight
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -continue on coumadin
   -monitor INR daily
   -monitor on tele
   # Respiratory failure: Patient trached, continues on PS 5/5 with MMV
   but overbreathing
   - will check NIF to r/o neuromuscular
   - Change to pressure support today
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   - well controlled FSs
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place;  will need IR eval
   of PEG tube inability to deliver feeds.
   # PPX: Famotidine, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU
   ICU Care
   # FEN: IVFs / replete lytes prn / PEG tube in place
   # PPX: Famotidine, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU

2142-12-20 11:15:00 Physician Attending Progress Note
Chief Complaint: Fever
   HPI:
   58 yo w/ large pontine and cerebellar CVA in [**11-2**] and resultant vent
   dependence (intermitt central apnea, on MMV [**5-29**]), readmitted after less
   than 24h out of hospital with fevers to 105.
   24 Hour Events:
 FEVER - 103.1
F - [**2142-12-20**] 05:00 AM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2142-12-19**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-20**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38.7
C (101.6
   HR: 107 (88 - 107) bpm
   BP: 156/98(104) {93/60(69) - 156/98(109)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
                  Total In:
                                                                  1,689 mL
                                                                    902 mL
   PO:
                  TF:
                                                                  1,158 mL
                                                                    782 mL
   IVF:
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    620 mL
   Urine:
                                                                  1,145 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    244 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 405 (405 - 600) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.4 L/min
   Physical Examination
   General: Obese.  Nods head to yes/no questions.
   HEENT: PERRL.  Trach site c/d/i.
   CV: Regular S1,S2. No murmers/rubs/gallops
   Abd: PEG tube site c/d/i.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   282 K/uL
   115 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   17 mg/dL
   100 mEq/L
   136 mEq/L
   37.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   9.6
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   Plt
   394
   348
   347
   [**Telephone/Fax (3) 11778**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   99
   115
   Other labs: PT / PTT / INR:21.7/36.8/2.0, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:67.9 %, Lymph:23.2 %, Mono:6.2 %,
   Eos:2.4 %, LDH:174 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   ICU Care
   1.       Fevers- likely central in nature.  Plan for TEE tomorrow.
   Bronch, TTE, CT neg. No lines.   Pleural effusion not amenable to
   drainage.  Low suspiction for other occult sites, prostatis,
   osteomyelitis.   Will plan for ID consult if neg TEE.  Cont
   linezolid.    Given troubles with G-tube, would get G-tube contrast
   study to confirm placement.
   2.       Afib
 metoprolol/coumadin
   3.       Chronic resp failure
 Breathing over the ventilator
   frequency.   Although history of needing MMV he may tolerate ongoing PS
   at this point. He was unable to augment tidal volume signirficantly at
   beside so it may be worth  checking  a NIF.
   Nutrition: TFs
   Boost Glucose Control (Full) - [**2142-12-19**] 04:45 PM 70.[**Telephone/Fax (5) 11779**]
   mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT:  anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2142-12-21 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 104.4
F - [**2142-12-20**] 01:00 PM
   Scheduled for G-tube study today
   Scheduled for TEE today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-21**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 36.7
C (98.1
   HR: 89 (79 - 120) bpm
   BP: 117/71(77) {92/43(59) - 172/105(134)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  3,666 mL
                                                                    354 mL
   PO:
             TF:
                                                                    569 mL
   IVF:
                                                                  2,717 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    320 mL
   Urine:
                                                                  1,225 mL
                                                                    320 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,041 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 643 (500 - 643) mL
   Vt (Spontaneous): 617 (405 - 731) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   11.0 g/dL
   93 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   104 mEq/L
   139 mEq/L
   33.0 %
   7.9 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   Plt
   394
   348
   347
   [**Telephone/Fax (3) 11778**]
   221
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   99
   115
   93
   Other labs: PT / PTT / INR:22.7/34.6/2.1, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:67.9 %, Lymph:23.2 %, Mono:6.2 %,
   Eos:2.4 %, LDH:174 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with history of atrial fibrillation, CAD, HTN, CHF,
   morbid obesity, recent pontine and cerebellar infarcts requiring
   prolonged ICU hospitalization from [**Date range (1) 11669**] complicated by
   persistent fevers and leukocytosis, discharged [**12-13**] after trach and
   peg placement and on a course of linezolid for VRE isolated from
   peripheral line on [**12-9**], now found to have recurrent fevers.
   #  Fever: patient continues to be febrile with no known cause.  Patient
   has recent pontine and cerebellar infarcts that could cause CNS fevers,
   although this would typically be hypothalamic.  CVL has been removed,
   TTE negative for vegetations.  No growth to date in any cultures.
   Zosyn stopped [**12-19**].  IP was unable to tap effusion.
   - continue linezolid for 14 day course for VRE bacteremia to [**12-23**]
   - TEE to evaluate for vegetation on vegitation, consent is in chart; if
   positive would change course of abx and lengthen to [**7-2**] wks
   - NPO p MN tonight
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -continue on coumadin
   -monitor INR daily
   -monitor on tele
   # Respiratory failure: Patient trached, continues on PS 5/5 with MMV
   but overbreathing
   - will check NIF to r/o neuromuscular
   - Change to pressure support today
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   - well controlled FSs
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place;  will need IR eval
   of PEG tube inability to deliver feeds.
   # PPX: Famotidine, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-21 07:53:00 Physician Attending Progress Note
Chief Complaint:
   Chronic respiratory failure
   HPI:
    58 yo w/ large pontine and cerebellar CVA in [**11-2**] and resultant vent
   dependence (intermitt central apnea, on MMV [**5-29**]), readmitted after less
   than 24h out of hospital with fevers to 105
   24 Hour Events:
 FEVER - 104.4
F - [**2142-12-20**] 01:00 PM
   History obtained from Patient, Family / Friend, Patent nods heads to
   yes/no questions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-12-19**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 36.7
C (98.1
   HR: 89 (79 - 120) bpm
   BP: 117/71(77) {92/43(59) - 172/105(134)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  3,666 mL
                                                                    359 mL
   PO:
             TF:
                                                                    569 mL
   IVF:
                                                                  2,717 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    320 mL
   Urine:
                                                                  1,225 mL
                                                                    320 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  2,041 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 643 (500 - 643) mL
   Vt (Spontaneous): 617 (405 - 731) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6.2 L/min
   Physical Examination
   General: Obese.  Nods head to yes/no questions.
   HEENT: PERRL.  Trach site c/d/i.
   CV: Regular S1,S2. No murmers/rubs/gallops
   Abd: PEG tube site c/d/i.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   221 K/uL
   93 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   104 mEq/L
   139 mEq/L
   33.0 %
   7.9 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   Plt
   394
   348
   347
   [**Telephone/Fax (3) 11778**]
   221
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   125
   113
   95
   116
   127
   99
   115
   93
   Other labs: PT / PTT / INR:22.7/34.6/2.1, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:67.9 %, Lymph:23.2 %, Mono:6.2 %,
   Eos:2.4 %, LDH:174 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   Assessment and Plan:
    1. Fevers- likely central in nature.  Plan for TEE tomorrow.  Bronch,
       TTE, CT neg. No lines.   Pleural effusion not amenable to
       drainage.  Low suspiction for other occult sites, prostatis,
       osteomyelitis.   Awaiting TEE neg TEE.  Given troubles with G-tube,
       would get G-tube contrast study to confirm placement. ID consult
       pending.   LLL consolidation concerning.  Will repeat CT and
       consider repeat bronchoscopy.
    2. Afib
 metoprolol/coumadin
    3. Chronic resp failure
 Breathing over the ventilator frequency.
       Although history of needing MMV he may tolerate ongoing PS at this
       point. He was unable to augment tidal volume signirficantly at
       beside so it may be worth  checking  a NIF.
   ICU Care
   Nutrition: TFs
   Boost Glucose Control (Full) - [**2142-12-19**] 04:45 PM 70.[**Telephone/Fax (5) 11779**]
   mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT:  anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname **] with Dr. [**Last Name (STitle) 8860**], whose note above
   reflects my input.  I would add/emphasize that this 50 y/o man with
   pontine/cerebellar CVA in [**Month (only) 1148**] (with reported central apneas) now is
   readmitted with high-grade fevers.  Source is not completely apparent.
   Seen by ID today, who recommended TEE, which is planned for tomorrow.
   Other diagnostic maneuvers (including bronchoscopy) unrevealing.  Will
   follow cultures and continue present rx.  Once past acute phase with
   fevers, could consider trial of central respiratory stimulants (e.g.
   see [**Doctor First Name **] Intern Med. [**2132**] [**3-26**];130(5):427-30).  Other issues as per Dr.
   [**Last Name (STitle) 8860**]
s note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2142-12-21**] 20:42 ------

2142-12-22 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ID consulted: recommended TEE, emperic course of meropenem 7 days for ?
   PNA, repeat chest CT, switch famotidine to sucralfate; and said we need
   to call [**Hospital 1188**] hospital to make sure [**Month (only) **] blood cx were never positive
   TEE fellow rescheduled for monday (patient needs to be NPO p MN sunday)
   Went to IR for adjustment of PEG tube.  TF restarted.
   NIF was -40 on vent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-21**] 07:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-22**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 85 (81 - 95) bpm
   BP: 103/51(65) {99/37(56) - 131/98(101)} mmHg
   RR: 19 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                    831 mL
                                                                    352 mL
   PO:
             TF:
                                                                     77 mL
                                                                    212 mL
   IVF:
                                                                    575 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    280 mL
   Urine:
                                                                    920 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -89 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 730 (307 - 780) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   11.1 g/dL
   93 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   34.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   Plt
   394
   348
   347
   [**Telephone/Fax (2) 11803**]26
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   Glucose
   125
   113
   95
   116
   127
   99
   115
   93
   93
   Other labs: PT / PTT / INR:34.8/34.6/3.6, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   50-year-old male with posterior strokes, persistent fevers and central
   respiratory failure
   #  Fever: patient continues to be febrile with no known cause.  No
   obvious source and cultures have remained negative. Would consider drug
   fever.   Zosyn stopped [**12-19**].  IP was unable to tap effusion.
   - continue linezolid for 14 day course for VRE bacteremia to [**12-23**]
   - TEE to evaluate for vegetation on vegitation, consent is in chart; if
   positive would change course of abx and lengthen to [**7-2**] wks
   - NPO p MN tonight
   .
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -continue on coumadin
   -monitor INR daily
   -monitor on tele
   # Respiratory failure: has apnea at night. Suggestive of need for
   volitional breathing
   - will check NIF to r/o neuromuscular weakness
   - Change to pressure support today
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   - well controlled FSs
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place;  will need IR eval
   of PEG tube inability to deliver feeds.
   # PPX: Famotidine, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-22**] 05:04 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   22 Gauge - [**2142-12-21**] 12:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-22 10:17:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   58 yo w/ large pontine and cerebellar CVA in [**11-2**] and resultant vent
   dependence (intermitt central apnea, on MMV [**5-29**]), readmitted after less
   than 24h out of hospital with fevers to 105
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-21**] 07:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-22**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.9
C (96.7
   HR: 85 (81 - 95) bpm
   BP: 106/78(85) {102/37(56) - 131/98(101)} mmHg
   RR: 15 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153.4 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                    831 mL
                                                                    387 mL
   PO:
             TF:
                                                                     77 mL
                                                                    238 mL
   IVF:
                                                                    575 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    450 mL
   Urine:
                                                                    920 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -89 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 730 (307 - 730) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 7 L/min
   Physical Examination
   General: Obese.  Nods head to yes/no questions.
   HEENT: PERRL.  Trach site c/d/i.
   CV: Regular S1,S2. No murmers/rubs/gallops
   Abd: PEG tube site c/d/i.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   226 K/uL
   93 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   34.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2142-12-15**]  06:57 AM
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
   WBC
   12.0
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   Hct
   32.8
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   Plt
   394
   348
   347
   [**Telephone/Fax (2) 11803**]26
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   Glucose
   125
   113
   95
   116
   127
   99
   115
   93
   93
   Other labs: PT / PTT / INR:34.8/34.6/3.6, ALT / AST:35/29, Alk Phos / T
   Bili:36/1.2, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan:
   58 yo w/ large pontine and cerebellar CVA in [**11-2**] and resultant vent
   dependence (intermitt central apnea, on MMV [**5-29**]), a/w recurrent
   fevers.  Now afebrile x 36h.
    1. Fevers- likely central in nature.  AwaitTEE.  Bronch, TTE, CT neg.
       No lines.   Pleural effusion not amenable to drainage.  Low
       suspicion for other occult sites, sinusitis, prostatis,
       osteomyelitis.   Awaiting TEE neg TTE.  GT without issues. ID
       consult appreciated.   LLL consolidation concerning.  Will repeat
       CT and consider repeat bronchoscopy for repeat evaluation.
    2. Afib
 metoprolol/coumadin
    3. Chronic resp failure
 Breathing over the ventilator frequency.
       Although history of needing MMV he may tolerate ongoing PS at this
       point. NIF is 40.
   ICU Care
   Nutrition: TFs
   Boost Glucose Control (Full) - [**2142-12-19**] 04:45 PM 70.[**Telephone/Fax (5) 11779**]
   mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT:  anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   17:20:
   Temp down for the past 30 hours now. WBC down. Has done well on trach
   mask when awake but has apnea when sleeping.
   On exam, patient is on ventilator, comfortable. Eyes open and he
   follows you in the room but not clearly understanding. Chest has few
   scattered rales. Heart sounds are soft. No gallop or murmur. Abdomen
   with active bowel sounds. No tenderness. Extremities warm. !+ edema.
   Appears to be responding to antibiotics. Would continue present
   regimen. Would have patient off ventilator during day and place back on
   vent at night (less time on vent, diminish risk of VAP). [**Month (only) 51**] need
   reticular activating system engaged for breathing if stroke has
   affected respiratory central pattern generator.
   30 mins.

2142-12-23 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Did well on PSV overnight without MMV; will try to wean to trach mask
   during the day even if requiring vent support overnight to reduce VAP
   risk
   - CT chest: Small airspace opacities in the left lower lung, in a
   different distribution than on the CT of seven days earlier, most
   consistent with atelectasis. New dependent posterior left upper lobe
   opacity has a similar atelectatic appearance, but pneumonia cannot be
   definitively excluded. No pleural effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-22**] 07:49 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-23**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 94 (85 - 106) bpm
   BP: 109/76(84) {93/60(70) - 168/109(120)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 143 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  1,481 mL
                                                                    619 mL
   PO:
             TF:
                                                                    843 mL
                                                                    542 mL
   IVF:
                                                                    318 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    250 mL
   Urine:
                                                                  1,155 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 643 (440 - 643) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 4.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   10.6 g/dL
   106 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   31.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
                            [**2142-12-23**]  02:01 AM
   WBC
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   7.5
   Hct
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   31.6
   Plt
   348
   347
   302
   [**Telephone/Fax (3) **]
   226
   221
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   0.5
   Glucose
   113
   95
   116
   127
   99
   115
   93
   93
   106
   Other labs: PT / PTT / INR:25.8/38.1/2.5, ALT / AST:34/25, Alk Phos / T
   Bili:40/0.9, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   CT chest: Small airspace opacities in the left lower lung, in a
   different distribution than on the CT of seven days earlier, most
   consistent with atelectasis. New dependent posterior left upper lobe
   opacity has a similar atelectatic appearance, but pneumonia cannot be
   definitively excluded. No pleural effusion.
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   #  Fever: Currently afebrile over 48 hrs.  No obvious source and
   cultures have remained negative. ID suspects famotidine. Would consider
   drug fever.   Zosyn stopped [**12-19**].  IP was unable to tap effusion as
   too small.
   - continue linezolid for 14 day course for VRE bacteremia to end [**12-23**]
   - TEE to be done on Monday (tomorrow)
   - CT chest showed improvement
   - appreciate ID recs
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -continue on coumadin, goal INR [**2-27**]
   -monitor INR daily
   -monitor on tele
   # Respiratory failure: Central apnea, most prominent at night.
   - NIF=40
   - attempt to keep him on trach mask during day to decrease chance of
   VAP
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   - well controlled FSs
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place;  will need IR eval
   of PEG tube inability to deliver feeds.
   # PPX: SUCRALFATE, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU, likely direct d/c to LTAC s/p TEE
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-23**] 05:28 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-23**] 02:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-12-23 07:51:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    58 yo w/ large pontine and cerebellar CVA in [**11-2**] and resultant vent
   dependence (intermitt central apnea, on MMV [**5-29**]), readmitted after less
   than 24h out of hospital with fevers to 105
   24 Hour Events:
                   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-22**] 07:49 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 94 (85 - 106) bpm
   BP: 109/76(84) {93/60(70) - 168/109(120)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 143 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  1,481 mL
                                                                    625 mL
   PO:
             TF:
                                                                    843 mL
                                                                    547 mL
   IVF:
                                                                    318 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    250 mL
   Urine:
                                                                  1,155 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 643 (440 - 643) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 4.8 L/min
   Physical Examination
   General: Obese.  Nods head to yes/no questions.
   HEENT: PERRL.  Trach site c/d/i.
   CV: Regular S1,S2. No murmers/rubs/gallops
   Abd: PEG tube site c/d/i.
   Skin:  Warm
   Ext: No clubbing, cyanosis.  Trace LE edema.
   Labs / Radiology
   10.6 g/dL
   221 K/uL
   106 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   31.6 %
   7.5 K/uL
        [image002.jpg]
                            [**2142-12-15**]  07:35 PM
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
                            [**2142-12-23**]  02:01 AM
   WBC
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   7.5
   Hct
   36.7
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   31.6
   Plt
   348
   347
   302
   [**Telephone/Fax (3) **]
   226
   221
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   0.5
   Glucose
   113
   95
   116
   127
   99
   115
   93
   93
   106
   Other labs: PT / PTT / INR:25.8/38.1/2.5, ALT / AST:34/25, Alk Phos / T
   Bili:40/0.9, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   58 yo w/ large pontine and cerebellar CVA in [**11-2**] and resultant vent
   dependence (intermitt central apnea, on MMV [**5-29**]), a/w recurrent
   fevers.  Now afebrile x 48h.
    1. Fevers- now afebrile. ? drug fever [**2-26**] famotidine.  AwaitTEE.
       Bronch, TTE, CT chest improved (LLL).  No lines.   Pleural effusion
       now resolved. ID consult appreciated.
   - cont course of meropenem, [**12-28**]^th.
    2. Afib
 metoprolol/coumadin
    3. Chronic resp failure
 Tolerated PS last night.  Breathing over the
       ventilator frequency.   Although history of needing MMV at night.
       NIF is 40.  Plan for trach sprints.
   ICU Care
   Nutrition: TFs
   Boost Glucose Control (Full) - [**2142-12-19**] 04:45 PM 70.[**Telephone/Fax (5) 11779**]
   mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-17**] 02:01 PM
   Prophylaxis:
   DVT:  anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the housestaff team for discussion of the
   above history, physical, data and assessment and plan with which I
   agree.   I would add the following comments.
   Patient is a 50 yo male admit with significant fever and current
   investigations for possible source has concluded with possible
   pulmonary source of infection with improvement with fever decrease
   across time but will with recurrence to 100.4.  All investigations for
   specific source have been without clear results for focal source
   leaving LLL opacity as perhaps most likely.
   EXAM-
   Oral cavity with very poor dentition
anterior teeth able to be
   visualized only and no focal abscess seen.
   Assessment and plan
By problems
   1)Fever-Source remains to be defined
patient currently with 48 hours
   without fever but has had recurrence this evening with temp to 100.4
   -Will continue with antibiotics
   -Will pursue panorex film when able for possible abscess.  If indicated
   or with recurrent high fevers would consider CT scan of head and neck.
   Addition issues to be addressed as defined in the above note.
   Critical Care Time-33 Minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2142-12-23**] 16:54 ------

2142-12-24 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - was on trach mask all day and throughout night with no apenic spells
   - febrile to 100.4 yesterday afternoon
   - cultures sent
   - plan for TEE this morning
   - has lone tooth that could be possible source of infection
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2142-12-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-24**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 107 (90 - 107) bpm
   BP: 140/81(96) {97/34(57) - 140/85(96)} mmHg
   RR: 21 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 153 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,304 mL
                                                                    755 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    492 mL
   IVF:
                                                                    440 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    395 mL
   Urine:
                                                                    785 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,519 mL
                                                                    360 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 631 (631 - 631) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: ///31/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   245 K/uL
   10.6 g/dL
   117 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   14 mg/dL
   103 mEq/L
   141 mEq/L
   31.8 %
   7.6 K/uL
        [image002.jpg]
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
                            [**2142-12-23**]  02:01 AM
                            [**2142-12-24**]  03:25 AM
   WBC
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   7.5
   7.6
   Hct
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   31.6
   31.8
   Plt
   348
   347
   302
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 11839**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   0.5
   0.5
   Glucose
   113
   95
   116
   127
   99
   115
   93
   93
   106
   117
   Other labs: PT / PTT / INR:18.1/33.8/1.6, ALT / AST:34/25, Alk Phos / T
   Bili:40/0.9, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Microbiology: Bld Cx from 11/26,27,29,30 NGTD
   Urine Cx from [**12-23**] Pending
   GRAM STAIN (Final [**2142-12-23**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
   CX NGTD
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   #  Fever: Currently afebrile over 96 hrs.  No obvious source and
   cultures have remained negative. ID suspects famotidine. Would consider
   drug fever.   Zosyn stopped [**12-19**].  IP was unable to tap effusion as
   too small.
   - Con
t current antibiotics until instructed by ID to stop, plan for 8
   days for HAP coverage
   - TEE to be done today
   -CT maxillary to eval for possible tooth abscess
   - CT chest showed improvement
   - appreciate ID recs
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -continue on coumadin, goal INR [**2-27**], heparin gtt now that
   subtherapeutic given recent strokes
   -monitor INR daily
   -monitor on tele
   # Respiratory failure: Central apnea, most prominent at night.
   - NIF=40
   - attempt to keep him on trach mask during day to decrease chance of
   VAP
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   - well controlled FSs
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place;  will need IR eval
   of PEG tube inability to deliver feeds.
   # PPX: SUCRALFATE, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU, likely direct d/c to LTAC s/p TEE
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-12-23**] 02:41 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2142-12-24 12:06:00 Physician Attending Progress Note
HPI:
    50yoM history of cerebellar pontine infarct.  Re-admitted from SRH
   with high fevers and in ICU because of chronic respiratory failure.
   24 Hour Events:
   Febrile overnight to 102.1, cultures sent.
   Tolerated trach mask since yesterday without recurrence of apneic
   episodes.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-24**] 04:00 AM
   [**Year (4 digits) **]
   Infusions:
   Heparin Sodium - 2,500 units/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2142-12-24**] 08:48 AM
   Insulin sliding scale
   NPH
   Other medications:
   Lopressor 25 tid
   Coumadin 5mg PO daily
   Simvastatin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-24**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.6
C (101.4
   HR: 97 (91 - 107) bpm
   BP: 106/72(78) {97/34(57) - 142/85(96)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 151 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,304 mL
                                                                    927 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    492 mL
   IVF:
                                                                    440 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    600 mL
   Urine:
                                                                    785 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,519 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Gen: Obese man, nods to voice
   Chest: Coarse [**Month (only) **] BS B.
   CV:
   Abd:
   Ext:
   Labs / Radiology
   10.6 g/dL
   245 K/uL
   117 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   14 mg/dL
   103 mEq/L
   141 mEq/L
   31.8 %
   7.6 K/uL
        [image002.jpg]
                            [**2142-12-16**]  03:49 AM
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
                            [**2142-12-23**]  02:01 AM
                            [**2142-12-24**]  03:25 AM
   WBC
   8.9
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   7.5
   7.6
   Hct
   31.3
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   31.6
   31.8
   Plt
   348
   347
   302
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 11839**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   0.5
   0.5
   Glucose
   113
   95
   116
   127
   99
   115
   93
   93
   106
   117
   Other labs: PT / PTT / INR:18.1/33.8/1.6, ALT / AST:34/25, Alk Phos / T
   Bili:40/0.9, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Cultures:
   Sputum: 1+GPCs, culture pending
   Assessment and Plan
   50yoM s/p CVA and chronic respiratory failure with likely fevers
   undergoing infectious evaluation.
   1.       ID: Persistent fevers, undergoing evaluation.
   - Appreciate ID recs.  Completing [**Last Name (LF) 3608**], [**First Name3 (LF) **] discontinue if sputum
   culture unrevealing.
   - Meropenem x 7 days for possible HCAP with potential resistant
   gram-negative infection
   - [**First Name3 (LF) **] today to evaluate for possible endocarditis
   - Maxilo-facial CT
   2.       Neuro:  s/p CVA
   - Unchanged mental status
   3.       Respiratory:  Tolerating trach mask
   - Monitor in ICU for recurrent apneic episodes
   4.       Afib:  Currently rate controlled with lopressor.  On
   coumadin/bridge with heparin
   ICU Care
   Nutrition: Holding tube feeds for [**Last Name (LF) **], [**First Name3 (LF) **] restart after procedure
   Glycemic Control:  Controlled
   Lines:  20 Gauge - [**2142-12-24**] 10:19 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer:  Sucrulfate
   VAP: Not intubated
   Communication:  Will contact family
   [**Name2 (NI) 36**] status:  Full code
   Disposition : Remain in ICU today, consider transfer to floor if no
   apneic episodes.  Discuss with case management regarding possible
   return to LTAC.
   Total time spent: 30 minutes

2142-12-25 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 50 yo M with recent pontine and cerebellar strokes
   here with fevers of unclear etiology
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2142-12-24**] 02:05 PM
 STOOL CULTURE - At [**2142-12-24**] 05:57 PM
 FEVER - 102.1
F - [**2142-12-24**] 08:00 AM
   - TEE done: no vegitation
   - ID ok with stopping linezolid
   - CT max/face with mild sinus thickening, dental abscesses
   - Dental evaluated, recommended contacting oral surgery; call Dr. [**First Name (STitle) 734**]
   [**Telephone/Fax (1) 11858**] in AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2142-12-24**] 02:15 PM
   Meropenem - [**2142-12-25**] 04:02 AM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2142-12-24**] 08:48 AM
   Fentanyl - [**2142-12-24**] 02:09 PM
   Midazolam (Versed) - [**2142-12-24**] 02:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-25**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.9
C (98.4
   HR: 92 (90 - 123) bpm
   BP: 109/55(67) {90/54(59) - 156/96(99)} mmHg
   RR: 12 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 151 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,307 mL
                                                                    884 mL
   PO:
             TF:
                                                                    947 mL
                                                                    529 mL
   IVF:
                                                                  1,090 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    195 mL
   Urine:
                                                                  1,090 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    492 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   10.5 g/dL
   105 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   13 mg/dL
   100 mEq/L
   140 mEq/L
   30.0 %
   8.9 K/uL
        [image002.jpg]
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
                            [**2142-12-23**]  02:01 AM
                            [**2142-12-24**]  03:25 AM
                             [**2142-12-25**]  03:26 AM
   WBC
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   7.5
   7.6
   8.9
   Hct
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   31.6
   31.8
   30.0
   Plt
   [**Telephone/Fax (3) 11859**]82
   221
   226
   221
   245
   260
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   0.5
   0.5
   0.5
   Glucose
   95
   116
   127
   99
   115
   93
   93
   106
   117
   105
   Other labs: PT / PTT / INR:19.7/35.5/1.8, ALT / AST:34/25, Alk Phos / T
   Bili:40/0.9, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: CT Maxillary:
   1. Periapical lucencies surrounding the three left maxillary teeth [**Doctor First Name 80**]
   #12,
   13 and 14, concerning for periapical abscesses. Surrounding soft tissue
   density and small foci of air may represent debris and aerosolized
   secretions;
   please correlate with direct visualization.
   2. Minimal sinus mucosal disease, as described above, with no evidence
   of
   acute component or bone destruction.
   3. Degenerative disc-endplate disease, with moderately severe narrowing
   of
   the spinal canal at the C3-4 level.
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2142-12-25**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   Urine Cx [**12-23**]: Negative
   Blood Cx 11/26/27/29/30 NGTD
   GRAM STAIN (Final [**2142-12-23**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
   CX NGTD
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O RESPIRATORY FAILURE, CHRONIC
   #  Fever: Now with periapical dental abscesses seen on CT. Plan for
   oral surgery evaluation today. Otherwise ID suspects famotidine. Would
   consider drug fever.   Zosyn stopped [**12-19**].  IP was unable to tap
   effusion as too small. TEE with no vegetation seen.
   - Continue Meropenem for HAP coverage
   -Oral surgery to eval today
   - CT chest showed improvement
   - appreciate ID recs
   # Atrial fibrillation: Patient currently in afib.
   -continue Metoprolol 25mg po tid per outpatient regimen
   -continue on coumadin, goal INR [**2-27**], heparin gtt now that
   subtherapeutic given recent strokes
   -monitor INR daily
   -monitor on tele
   # Respiratory failure: No recent apneas. Stable on Trach mask. .
   - attempt to keep him on trach mask during day to decrease chance of
   VAP
   .
   # DM2: Continue NPH 30u [**Hospital1 **] + SSI.
   -qid fingersticks
   - well controlled FSs
   .
   # FEN: IVFs / replete lytes prn / PEG tube in place;
   # PPX: SUCRALFATE, bowel regimen
   # ACCESS PIV
   # CODE:  FULL
   # CONTACT:  Sister [**Name (NI) 2116**] [**Name (NI) 11094**] [**Telephone/Fax (1) 11670**]. Brothers and
   daughter.
   # DISPO: ICU, likely direct d/c to LTAC vs. floor today
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2142-12-25**] 04:47 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-12-24**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2142-12-25 12:06:00 Physician Attending Progress Note
HPI:
    50yoM s/p CVA with trach and h/o apenic episodes thought to be
   central; here with fevers.
   24 Hour Events:
   Febrile yesterday.
   Oral/sinus CT with peridontal abscess.  Oral surgery consult pending.
   TEE negative for vegetations.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2142-12-25**] 11:32 AM
   Other ICU medications:
   Insulin sliding scale
   Other medications:
   Simvastatin
   Lopressor
   Coumadin
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-25**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.2
C (98.9
   HR: 101 (87 - 123) bpm
   BP: 93/62(69) {90/54(59) - 156/96(99)} mmHg
   RR: 10 (8 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 151 kg (admission): 155.6 kg
   Height: 72 Inch
             Total In:
                                                                  2,307 mL
                                                                  1,364 mL
   PO:
             TF:
                                                                    947 mL
                                                                    835 mL
   IVF:
                                                                  1,090 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    360 mL
   Urine:
                                                                  1,090 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    492 mL
                                                                  1,004 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Gen: Nods
 and
 to simple questions.
   Chest: Clear anterior fields
   CV: RRR no murmur
   Abd: s/nt/obese
   Ext: Minimal edema
   Labs / Radiology
   10.5 g/dL
   260 K/uL
   105 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   13 mg/dL
   100 mEq/L
   140 mEq/L
   30.0 %
   8.9 K/uL
        [image002.jpg]
                            [**2142-12-17**]  03:50 AM
                            [**2142-12-18**]  03:43 AM
                            [**2142-12-18**]  06:00 AM
                            [**2142-12-19**]  03:26 AM
                            [**2142-12-20**]  05:05 AM
                            [**2142-12-21**]  05:12 AM
                            [**2142-12-22**]  04:02 AM
                            [**2142-12-23**]  02:01 AM
                            [**2142-12-24**]  03:25 AM
                             [**2142-12-25**]  03:26 AM
   WBC
   9.2
   7.9
   8.5
   9.6
   7.9
   7.4
   7.5
   7.6
   8.9
   Hct
   32.5
   33.5
   32.5
   37.5
   33.0
   34.5
   31.6
   31.8
   30.0
   Plt
   [**Telephone/Fax (3) 11859**]82
   221
   226
   221
   245
   260
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.5
   0.5
   0.5
   0.5
   Glucose
   95
   116
   127
   99
   115
   93
   93
   106
   117
   105
   Other labs: PT / PTT / INR:19.7/35.5/1.8, ALT / AST:34/25, Alk Phos / T
   Bili:40/0.9, Differential-Neuts:71.6 %, Lymph:19.5 %, Mono:3.9 %,
   Eos:4.4 %, LDH:174 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Micro:
   Cdiff: negative
   Blood cultures: negative
   Sputum: GS 1+GPCs in clusters; culture NG x 2days
   Assessment and Plan
   50yoM s/p CVA with fevers, possible PNA and peridontal abscess
   1. Fevers:
   - oral surgery today regarding peridontal abscess; favor extraction
   - Complete course of meropenem for possible PNA (cultures all sterile)
   2. Respiratory failure
   - Stable on TM, no recurrent apneas x 48h
   - Assess for PMV, but suspect aphasia
   ICU Care
   Nutrition:  Boost Glucose Control (Full) - [**2142-12-25**] 07:30 AM 70
   mL/hour
   Glycemic Control:  No hyperglycemia
   Lines:  20 Gauge - [**2142-12-24**] 12:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP: Trached; not on mechanical ventilation
   Communication:  Update family today
   Code status:  full code
   Disposition : Stable for floor
   Total time spent: 25 min